US07842713B2
Sodium ethylate (6.5 g, 95 mmol) was added under vigorous stirring to a solution of 5-methylthiophene-2-carbaldehyde (10 g, 79 mmol) and diethyl succinate (27.6 g, 158 mmol) in ethanol (300 mL). The reaction mixture was refluxed for 3 h and evaporated in vacuum (˜20 mmHg) at 50° C. until the solvent distillation ceased. The obtained residue was diluted with 200 mL of 10% HCl and 300 mL of ethyl acetate. The mixture was shaken. The organic layer was separated, diluted with 200 mL of a saturated aqueous solution of NaHCO3, and shaken. The aqueous layer was separated, neutralized by 10% HCl to pH 2, and subjected to extraction by 400 mL of ethyl acetate. The organic layer was evaporated in vacuum (˜20 mmHg) at 60° C. and chromatographed on a layer of silica gel (200×150 mm) with hexane/ethyl acetate mixture, 1:1 as eluent. Fractions containing the target product were collected and evaporated in vacuum to give 12.3 g (48 mmol, 61%) of 3-(ethoxycarbonyl)-4-(5-methyl-2-thienyl)but-3-enoic acid as a light-brown oil.

reactant | Sodium ethylate | 95 mmol, 6.5 g | CC[O-].[Na+]
reactant | 5-methylthiophene-2-carbaldehyde | 79 mmol, 10 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | diethyl succinate | 158 mmol, 27.6 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 3-(ethoxycarbonyl)-4-(5-methyl-2-thienyl)but-3-enoic acid | 48 mmol, 12.3 g, 61% | C(C)OC(=O)C(CC(=O)O)=CC=1SC(=CC1)C | C12H14O4S
